US04389403
3.40 g (50 millimoles) of imidazole are dissolved in 25 ml of absolute tetrahydrofuran, a solution of 3.54 g (25 millimoles) of nicotinoyl chloride in 25 ml of absolute tetrahydrofuran is added dropwise at room temperature, and the mixture is stirred for a further 2 hours. The imidazole hydrochloride which has precipitated is then filtered off, the filter residue is washed with a small amount of anhydrous tetrahydrofuran, the combined filtrates are added to a solution of 4.6 g (20 millimoles) of 2-(2',6'-dichlorophenylamino)-2-imidazoline in 25 ml of absolute tetrahydrofuran, and the mixture is stirred overnight. The solvent is then stripped off under reduced pressure on a rotary evaporator and the residue is twice recrystallized from isopropanol. 4.8 g of pure 1-nicotinoyl-2-(2',6'-dichlorophenylamino)-2-imidazoline of melting point 172.5°-174° C. are obtained; the material is identical with the product described in Example 1.

reactant | imidazole | 50 millimoles, 3.40 g | N1C=NC=C1 | C3H4N2
reactant | nicotinoyl chloride | 25 millimoles, 3.54 g | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
reactant | 2-(2',6'-dichlorophenylamino)-2-imidazoline | 20 millimoles, 4.6 g | ClC1=C(C(=CC=C1)Cl)NC=1NCCN1 | C9H9Cl2N3
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-nicotinoyl-2-(2',6'-dichlorophenylamino)-2-imidazoline | 4.8 g | C(C1=CN=CC=C1)(=O)N1C(=NCC1)NC1=C(C=CC=C1Cl)Cl | C15H12Cl2N4O
